US07601722B2
In an analogous manner to general procedure V, 1-[2-(2-bromoethoxy)ethyl]-3-(2,6-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.1 g, 0.23 mmol) was treated with 8N methylamine in methanol to give 2-{2-[3-(2,6-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}-N-methylethanamine which was treated with 1N hydrochloric acid in ether to give its hydrochloride salt as a white solid (0.24 g, 25%). HRMS: calcd for C17H19F2N3O3S+H+, 384.11879; found (ESI, [M+H]+Obs'd), 384.1184.

reactant | 1-[2-(2-bromoethoxy)ethyl]-3-(2,6-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.23 mmol, 0.1 g | BrCCOCCN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2F)F)(=O)=O | C16H15BrF2N2O3S
reactant | methylamine | 8N | CN | CH5N
solvent | methanol | CO | CH4O
product | 2-{2-[3-(2,6-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}-N-methylethanamine | FC1=C(C(=CC=C1)F)N1S(N(C2=C1C=CC=C2)CCOCCNC)(=O)=O | C17H19F2N3O3S
